US07648985B2
(i) 3-Fluoro-4-(3-hydroxy-propoxy)-benzonitrile
A mixture of 4-cyano-2-fluoro phenol (5 g, 0.0365 mol; from prep N(iv) above), 3-bromopropanol (10.15 g, 0.073 mol) and potassium carbonate (7.6 g, 0.054 mol) in dry acetone (50 ml) was stirred at 60° C. overnight under nitrogen atmosphere. The reaction mixture was filtered and the solvent was concentrated under reduced pressure. The residue was purified by column chromatography over silica gel using 5% ethyl acetate in petroleum ether to yield (5.5 g) of the sub-title compound as a solid.

reactant | 4-cyano-2-fluoro phenol | 0.0365 mol, 5 g | C(#N)C1=CC(=C(C=C1)O)F | C7H4FNO
reactant | 3-bromopropanol | 0.073 mol, 10.15 g | BrCCCO | C3H7BrO
reactant | potassium carbonate | 0.054 mol, 7.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3-Fluoro-4-(3-hydroxy-propoxy)-benzonitrile | 5.5 g | FC=1C=C(C#N)C=CC1OCCCO | C10H10FNO2
